US08076480B2
Synthesis of dimethyl (S)-α-(1,3-diphenyl-2-propen-1-yl)malonate
In 0.5 ml of dichloromethane were suspended 0.9 mg (2.5 μmol) of [PdCl(η3-C3H5)]2 and 1.8 mg (5.5 μmol) of (R,R)-t-Bu-QuinoxP* (1), followed by stirring at room temperature for 10 to 30 minutes. To the resulting solution were added a solution of 126 mg (0.50 mmol) of 1,3-diphenyl-2-propenyl acetate in 1.5 ml of dichloromethane, 171 μl (1.50 mmol) of dimethyl malonate, 367 μl (1.50 mmol) of N,O-bis(trimethylsilyl)acetamide (BSA), and a trace amount of potassium acetate. The reaction system was stirred at room temperature for 1 hour. The reaction mixture was diluted with diethyl ether, and a saturated aqueous solution of ammonium chloride was added to stop the reaction. The resulting mixture was extracted with diethyl ether, and the organic layer was washed with a sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate. Any volatile matter was evaporated off, and the residue was purified by silica gel column chromatography.

reactant | 1,3-diphenyl-2-propenyl acetate | 0.50 mmol, 126 mg | C(C)(=O)OC(C=CC1=CC=CC=C1)C1=CC=CC=C1 | C17H16O2
reactant | dimethyl malonate | 1.50 mmol, 171 μl | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | N,O-bis(trimethylsilyl)acetamide | 1.50 mmol, 367 μl | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | dimethyl (S)-α-(1,3-diphenyl-2-propen-1-yl)malonate | C1(=CC=CC=C1)[C@@H](C=CC1=CC=CC=C1)C(C(=O)OC)C(=O)OC | C20H20O4
